subckt NOT_GATE VDD GND IN OUT
M0 (VDD IN OUT GND) nch_lvt_mac l=1u w=1.05u multi=1 nf=1 
M1 (OUT IN GND GND) pch_lvt_mac l=1u w=1.05u multi=1 nf=1 
ends NOT_GATE
